US09422331B2
A rt solution of tert-butyl(S)-1-((3S,4S)-5-acetyl-7-cyano-4-methyl-1-((2-methylnaphthalen-1-yl)methyl)-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl(methyl)carbamate (56.3 mg, 94.2 μmol) in 4 M HCl in dioxane (471 μl) was stirred for 1 h. The reaction was diluted with Et2O and the solids were collected by vacuum filtration, taken up in MeCN—H2O, and lyophilized to provide (S)-N-((3S,4S)-5-acetyl-7-cyano-4-methyl-1-((2-methylnaphthalen-1-yl)methyl)-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl)-2-(methylamino)propanamide hydrochloride (44.4 mg, 88%) as a white solid. MS m/z 498 (MH)+.

reactant | tert-butyl(S)-1-((3S,4S)-5-acetyl-7-cyano-4-methyl-1-((2-methylnaphthalen-1-yl)methyl)-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl(methyl)carbamate | 94.2 μmol, 56.3 mg | C(C)(=O)N1C2=C(N(C([C@H]([C@@H]1C)NC([C@H](C)N(C(OC(C)(C)C)=O)C)=O)=O)CC1=C(C=CC3=CC=CC=C13)C)C=CC(=C2)C#N | C34H39N5O5
reactant | HCl | 4 M | Cl | ClH
solvent | dioxane | 471 μl | O1CCOCC1 | C4H8O2
solvent | Et2O | CCOCC | C4H10O
product | (S)-N-((3S,4S)-5-acetyl-7-cyano-4-methyl-1-((2-methylnaphthalen-1-yl)methyl)-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl)-2-(methylamino)propanamide hydrochloride | 44.4 mg, 88% | Cl.C(C)(=O)N1C2=C(N(C([C@H]([C@@H]1C)NC([C@H](C)NC)=O)=O)CC1=C(C=CC3=CC=CC=C13)C)C=CC(=C2)C#N | InChI=1S/C29H31N5O3.ClH/c1-17-10-12-22-8-6-7-9-23(22)24(17)16-33-25-13-11-21(15-30)14-26(25)34(20(4)35)19(3)27(29(33)37)32-28(36)18(2)31-5;/h6-14,18-19,27,31H,16H2,1-5H3,(H,32,36);1H/t18-,19-,27-;/m0./s1
